US05958918
C. 4-Pyridin-3-ylbenzene sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride (0.3 g, 1.2 mmol) as in EXAMPLE 24, Part B using 4-pyridin-3-ylbenzenesulfonyl chloride (0.57 g, 2.4 mmol) in place of 6-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by chromatography (2.5% MeOH/CH2Cl2 to 5% MeOH/CH2Cl2) to obtain a white solid (0.08 g, 0.18 mmol).

reactant | 3-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | 1.2 mmol, 0.3 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 4-pyridin-3-ylbenzenesulfonyl chloride | 2.4 mmol, 0.57 g | N1=CC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H8ClNO2S
product | 4-Pyridin-3-ylbenzene sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC=C(C=C2)C=2C=NC=CC2)=O)C=CC1 | C23H20N4O3S
